US06274536B1
3-(3-Fluoro-5-chloro-2-pyridyl)-5-bromo-1-methyl-[1H]-pyrazole
20.0 g of 3-(3-fluoro-5-chloro-2-pyridyl)-5-hydroxy-1-methyl-[1H]-pyrazole (Example P13) are introduced into 80 ml of tetrachloroethane. A total of 25.2 g of phosphorus oxybromide (POBr3) is added in portions to the brown suspension. The mixture is then stirred for 2 hours at an internal temperature of 130° C., after which it is cooled and, with cooling with an ice-bath, 150 ml of a 2M sodium hydroxide solution are added dropwise. After the addition of diethyl ether and separation of the phases, the organic phase is washed in succession with water, dilute hydrochloric acid and brine, dried over sodium sulfate, filtered and concentrated to dryness in vacuo. 19.94 g of a brown solid (crude product) are obtained, which is purified by means of digestion with 50 ml of n-hexane. 12.65 g of the desired compound are obtained in the form of a brown solid having a melting point of 110-111° C.

reactant | 3-(3-fluoro-5-chloro-2-pyridyl)-5-hydroxy-1-methyl-[1H]-pyrazole | 20.0 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)O)C | C9H7ClFN3O
reactant | tetrachloroethane | 80 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
reactant | phosphorus oxybromide | 25.2 g | P(=O)(Br)(Br)Br | Br3OP
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(3-Fluoro-5-chloro-2-pyridyl)-5-bromo-1-methyl-[1H]-pyrazole | 19.94 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)Br)C | C9H6BrClFN3
